US06326386B1
3-Chloro-N-cyclopentyl-5-[2-(pyridin-4-ylamino)-ethoxy]-N-(4-[1,2,4]triazol-1-yl-butyl)-benzamide
A solution of {2-[3-chloro-5-(cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester (0.069 g) and trifluoroacetic acid (0.5 ml) in dichloromethane (0.5 ml) was stirred at room temperature for 1 h then concentrated under vacuum. The residue was purified by flash chromatography eluting with dichloromethane:methanol:ammonia (92:8:1 v/v/v), to give the title compound as a white foam (0.026 g).

reactant | {2-[3-chloro-5-(cyclopentyl-(4-[1,2,4]triazol-1-yl-butyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.069 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCCN1N=CN=C1)C1CCCC1)=O)Cl)=O | C30H39ClN6O4
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-cyclopentyl-5-[2-(pyridin-4-ylamino)-ethoxy]-N-(4-[1,2,4]triazol-1-yl-butyl)-benzamide | 0.026 g | ClC=1C=C(C(=O)N(CCCCN2N=CN=C2)C2CCCC2)C=C(C1)OCCNC1=CC=NC=C1 | C25H31ClN6O2
